US07485636B2
E. Preparation of 1-(2-Fluoro-phenyl)-3-(piperidin-4-yloxy)-1H-indazole, hydrochloride
To a stirred solution of 187 g (0.456 mole) of 4-[1-(2-fluoro-phenyl)-1H-indazol-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester in 600 mL of ethyl acetate was added 300 mL of 4M hydrogen chloride in dioxane dropwise over a 30 minute period. The temperature rose to 24° C. from 21° C. during the addition. When the addition was complete, gas evolution was observed and the temperature rose to 28° C. A cold water bath was used to lower the temperature to 18° C. After stirring for approximately 40 min, a solid began separating. Stirring was continued at 18-20° C. for 3 hours and then at −10° C. (ice-acetone bath) for 1 hour. The solid was collected by filtration, rinsed with 60 mL of ethyl acetate and pressed dry under suction. Further drying in vacuo at 30° C. for 16 hours afforded 87.3 g (55%) of product. The combined filtrate and washing was concentrated in vacuo to near dryness. The residue was taken up in 250 mL of ethyl acetate and the suspension was stirred at −10° C. for 2 hours. The solid was collected by filtration, rinsed with 30 mL of ethyl acetate and pressed dry under suction. Further drying in vacuo at 30° C. for 16 hours provided an additional 23.2 g (15%) of product. Total yield=110.5 g (70%). 1H NMR (CD3OD) δ ppm: 7.7 (d, 1H), 7.6 (t, 1H), 7.5-7.6 (m, 2H), 7.3-7.5 (m, 2H), 7.25 (m, 1H), 7.2 (t, 1H), 5.2 (m, 1H), 3.4-3.5 (m, 2H), 3.2-3.3 (m, 2H), 2.3-2.4 (m, 2H), 2.2-2.3 (m, 2H).

reactant | 4-[1-(2-fluoro-phenyl)-1H-indazol-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.456 mole, 187 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NN(C2=CC=CC=C12)C1=C(C=CC=C1)F | C23H26FN3O3
reactant | hydrogen chloride | 4M, 300 mL | Cl | ClH
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(2-Fluoro-phenyl)-3-(piperidin-4-yloxy)-1H-indazole, hydrochloride | 87.3 g, 55% | Cl.FC1=C(C=CC=C1)N1N=C(C2=CC=CC=C12)OC1CCNCC1 | InChI=1S/C18H18FN3O.ClH/c19-15-6-2-4-8-17(15)22-16-7-3-1-5-14(16)18(21-22)23-13-9-11-20-12-10-13;/h1-8,13,20H,9-12H2;1H
